US05399578
2.8 g of 4-bromomethyl-2'-(trimethylsilylethoxycarbonyl)biphenyl and 1.17 g of anhydrous sodium acetate are stirred overnight at 65° in glacial acetic acid and then boiled under reflux for 3 hours. The reaction mixture is evaporated, the residue is taken up in ethyl acetate and washed with water and sodium hydrogencarbonate, and the organic phase is dried and concentrated. The residue is introduced into 25 ml of ethanol, 6.3 ml of 1N NaOH are added and the mixture is stirred at room temperature for 30 minutes. It is evaporated in vacuo, and the residue is treated with ethyl acetate, washed with water and brine, dried and evaporated. Flash chromatography (N4) yields 4-hydroxymethyl-2-(trimethylsilylethoxycarbonyl)biphenyl as a colourless oil. 1H-NMR (DMSO): 0 ppm (s, 9H), 0.75 ppm (t, 2H), 4.1 ppm (t, 2H), 4.73 ppm (d, 2H), 5.27 ppm (t, 1H), 7.2-7.7 ppm aromatics.

reactant | 4-bromomethyl-2'-(trimethylsilylethoxycarbonyl)biphenyl | 2.8 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OCC[Si](C)(C)C | C19H23BrO2Si
reactant | sodium acetate | 1.17 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-hydroxymethyl-2-(trimethylsilylethoxycarbonyl)biphenyl | OCC1=CC(=C(C=C1)C1=CC=CC=C1)C(=O)OCC[Si](C)(C)C | C19H24O3Si
